US07786165B2
[5-isobutoxy-1-(2-methylphenyl)-1H-pyrazol-3-yl]methanol
To a solution (10 mL) of ethyl 5-isobutoxy-1-(2-methylphenyl)-1H-pyrazole-3-carboxylate (1.07 g, 3.54 mmol) in anhydrous tetrahydrofuran was added lithium aluminum hydride (0.13 g, 3.54 mmol) under stirring at 0° C., and the mixture was stirred at the same temperature for 2 hr. After completion of the reaction, sodium sulfate decahydrate (2.28 g, 7.08 mmol) was added to the reaction system and the mixture was stirred at room temperature for 2 hr. The precipitated insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-1/1) to give the title compound (0.85 g, yield 92%) as a pale-yellow oil.

reactant | ethyl 5-isobutoxy-1-(2-methylphenyl)-1H-pyrazole-3-carboxylate | 3.54 mmol, 10 mL, 1.07 g | C(C(C)C)OC1=CC(=NN1C1=C(C=CC=C1)C)C(=O)OCC | C17H22N2O3
reactant | lithium aluminum hydride | 3.54 mmol, 0.13 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | 7.08 mmol, 2.28 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [5-isobutoxy-1-(2-methylphenyl)-1H-pyrazol-3-yl]methanol | 0.85 g, yield 92% | C(C(C)C)OC1=CC(=NN1C1=C(C=CC=C1)C)CO | C15H20N2O2
